US07851473B2
(5) 3-(2-piperazin-1-yl-1,3-thiazol-4-yl)benzonitrile
A 4 N solution (25 ml) of hydrogen chloride in ethyl acetate was added to a solution of tert-butyl 4-[4-(3-cyanophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate (920 mg, 2.48 mmol) in ethyl acetate (50 ml), the mixture was stirred at room temperature for 6 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in water, neutralized with a 1 N sodium hydroxide aqueous solution, and extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give 438 mg (65.2%) of the desired product as a solid.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-[4-(3-cyanophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 2.48 mmol, 920 mg | C(#N)C=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H22N4O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-piperazin-1-yl-1,3-thiazol-4-yl)benzonitrile | 438 mg, 65.2% | N1(CCNCC1)C=1SC=C(N1)C=1C=C(C#N)C=CC1 | C14H14N4S
